US05688946
14.7 g (59 mmol) of N-Boc-L-cysteine ethyl ester dissolved in 300 ml of dimethylformamide are added dropwise at 0° to a suspension of 2.49 g (64.8 mmol) of sodium hydride (60% in oil) in 200 ml of dimethylformamide and the mixture is stirred at 0° for 30 minutes. Subsequently, 8.37 g (62 mmol) of bromomethylcyclopropane in 30 ml of dimethylformamide are added dropwise thereto. The solution is stirred at room temperature overnight. The dimethylformamide is evaporated under reduced pressure, the residue is partitioned between ether and water and the aqueous phase is extracted 4 times with ether. The combined organic phases are washed twice with water and twice with saturated sodium chloride solution, dried over sodium sulphate and evaporated under reduced pressure. For purification, the residue is chromatographed on silica gel using a 1:19 mixture of ethyl acetate and hexane as the eluent. There are obtained 8.4 g of tert-butyl rac-[2-[(cyclopropylmethyl)thio]-1-(ethoxycarbonyl)ethyl]carbamate as a colourless oil, MS: 304 (M+H)+.

reactant | N-Boc-L-cysteine ethyl ester | 59 mmol, 14.7 g | C(C)OC([C@@H](NC(=O)OC(C)(C)C)CS)=O | C10H19NO4S
reactant | sodium hydride | 64.8 mmol, 2.49 g | [H-].[Na+]
reactant | bromomethylcyclopropane | 62 mmol, 8.37 g | BrCC1CC1 | C4H7Br
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | tert-butyl rac-[2-[(cyclopropylmethyl)thio]-1-(ethoxycarbonyl)ethyl]carbamate | 8.4 g | C1(CC1)CSCC(C(=O)OCC)NC(OC(C)(C)C)=O | C14H25NO4S
